US07659245B2
7-Methoxy-8-methyl-2-ethyl-quinazolin-4-ol (124)
The general procedure described above was followed using 2-amino-4-methoxy-3-methyl benzamide as benzamide derivative [A] and acetic acid chloride as acid chloride [B], which gave the title compound (2.2 g, 100%).

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | acetic acid chloride | C(C)(=O)Cl | C2H3ClO
product | 7-Methoxy-8-methyl-2-ethyl-quinazolin-4-ol | 2.2 g, 100% | COC1=CC=C2C(=NC(=NC2=C1C)CC)O | C12H14N2O2
